US04990495
Preparation steps identical to those described in example 1(b) were carried out using 5.2 g of 14-tert-butyl-13,15-dioxabicyclo[10.3.0]pentadeca-4,8-diene and 32.8 ml of a 1.2M solution of DIBAH in toluene. After acidification, the reaction mixture was washed with ether, then with brine, dried, concentrated and distilled in a bulb-to-bulb apparatus. 4.82 g of 12-(2,2-dimethylpropoxy)-4,8-cyclododecadien-1-ol were obtained.

reactant | 14-tert-butyl-13,15-dioxabicyclo[10.3.0]pentadeca-4,8-diene | 5.2 g | C(C)(C)(C)C1OC2CCC=CCCC=CCCC2O1 | C17H28O2
reactant | DIBAH | CC(C)C[AlH]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 12-(2,2-dimethylpropoxy)-4,8-cyclododecadien-1-ol | 4.82 g, yield 92% | CC(COC1CCC=CCCC=CCCC1O)(C)C | C17H30O2
